US05919777
To a stirred solution of (2R)-1,2-dibenzylpiperazine (2.0 g; 7.5 mmol) in dichloromethane (30 ml), methanesulfonyl chloride (0.86 g; 7.5 mmol) was added and the mixture was stirred at ambient temperature for 1 h. Potassium carbonate (1.1 g) was added and stirring was continued for another hour. Dichloromethane (20 ml) and water (10 ml) were added and the phases were separated. The organic phase was washed with water (10 ml) and dried over magnesium sulfate. The solvent was evaporated in vacuo to give 2.2 g of (2R)-1,2-dibenzyl-4-methanesulfonylpiperazine.

reactant | (2R)-1,2-dibenzylpiperazine | 7.5 mmol, 2.0 g | C(C1=CC=CC=C1)N1[C@@H](CNCC1)CC1=CC=CC=C1 | C18H22N2
reactant | methanesulfonyl chloride | 7.5 mmol, 0.86 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2R)-1,2-dibenzyl-4-methanesulfonylpiperazine | 2.2 g | C(C1=CC=CC=C1)N1[C@@H](CN(CC1)S(=O)(=O)C)CC1=CC=CC=C1 | C19H24N2O2S
